US04518597
6-[3-(3,4-Dichloro-phenylsulfinyl)-propoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 6-[3-(3,4-dichloro-phenylmercapto)-propoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 6-[3-(3,4-dichloro-phenylmercapto)-propoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)SCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C19H19Cl2NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[3-(3,4-Dichloro-phenylsulfinyl)-propoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC=1C=C(C=CC1Cl)S(=O)CCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C19H19Cl2NO4S
